US05705585
3-methyluracil-5-carboxylic acid was treated with HCl and CH2 using standard chloromethylation conditions to give 3-methyl-5-chloromethyl uracil in 52% yield (following standard work-up and recrystallization from ethyl acetate). NMR (DMSO-6): chemical shifts, peak integrations & D2O exchange experiments diagnostic for structure.

reactant | 3-methyluracil-5-carboxylic acid | CN1C(NC=C(C1=O)C(=O)O)=O | C6H6N2O4
reactant | HCl | Cl | ClH
product | 3-methyl-5-chloromethyl uracil | 52% yield | CN1C(NC=C(C1=O)CCl)=O | C6H7ClN2O2
